US05662830
Into a three-necked flask equipped with a dropping funnel, a three-way cock and a thermometer was placed 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide (22.9 g, 50 mmols), followed by adding tetrahydrofuran (100 ml), suspending, stirring the suspension under ice cooling till the liquid temperautre reached 10° C. The resulting reaction mixture is added potassium t-butoxide (5.6 g, 50 mmols), followed by elevating the temperature up to room temperature under ice cooling for one hour, stirring for one hour, dropwise adding a tetrahydrofuran (100 ml) solution of (4-(4-propylphenyl)phenyl)cyclohexanone (14.0 g, 48 mmols) over 30 minutes from the dropping funnel, further stirring the reaction liquid for 5 hours after completion of the dropwise addition, adding ether (200 ml), allowing to stand for one hour, filtering off deposited insoluble substance, concentrating the filtrate under reduced pressure and isolating and purifying the resulting pale brown oil by means of silica gel column chromatography, to obtain 1-(2-(1,3-dioxan-2-yl)ethylidene)-4-(4-(4-propylphenyl)phenylcyclohexane.

reactant | 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide | 50 mmols, 22.9 g | [Br-].O1C(OCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | potassium t-butoxide | 50 mmols, 5.6 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | (4-(4-propylphenyl)phenyl)cyclohexanone | 48 mmols, 14.0 g | C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1C(CCCC1)=O | C21H24O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-(4-propylphenyl)phenylcyclohexane | C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1CCCCC1 | C21H26
